US05134231
Ethyl 3,5-dioxo-4-methoxycarbonyl-2-methylhexanoate (176 mg; 0.72 mmole) was dissolved in tetrahydrofuran (1.3 ml), and 1.7N aqueous ammonia (0.85 ml) was added thereto at room temperature. The resultant mixture was allowed to stand at the same temperature overnight, followed by removal of tetrahydrofuran under reduced pressure. The reaction mixture was combined with lN hydrochloric acid (0.7 ml) and an aqueous sodium chloride solution and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give methyl 4-ethoxycarbonyl-3-oxopentanoate.

reactant | Ethyl 3,5-dioxo-4-methoxycarbonyl-2-methylhexanoate | 0.72 mmole, 176 mg | O=C(C(C(=O)OCC)C)C(C(C)=O)C(=O)OC | C11H16O6
reactant | ammonia | 1.7N, 0.85 ml | N | H3N
solvent | tetrahydrofuran | 1.3 ml | O1CCCC1 | C4H8O
product | methyl 4-ethoxycarbonyl-3-oxopentanoate | C(C)OC(=O)C(C(CC(=O)OC)=O)C | C9H14O5
